US08021574B2
Under an argon gas atmosphere, a mixture of 212 g (748 mmol) of 2(3-bromophenyl) naphthalene and 3 L of dehydrated THF was cooled down to −10 degrees C., and added with 600 ml (948 mmol) of hexane solution of 1.6M n-butyllithium in drops while being stirred. Then, the reaction mixture was stirred for two hours at 0 degree C. The reaction solution was further cooled down to −78 degrees C., and added with 450 g (2.39 mol) of triisopropyl borate in drops. Subsequently, the reaction mixture was stirred for 17 hours at room temperature. The reaction mixture was further added with solution of hydrochloric acid to be stirred for one hour at room temperature. The reaction mixture was further added with 3 L of toluene, so that aqueous phase thereof was eliminated. After organic phase thereof was dried with magnesium sulfate, the solvent was distilled away under reduced pressure. By recrystallizing the obtained solid by toluene, 126 g of 3-(2-naphthyl)phenylboronic acid was obtained at an yield of 67%.

reactant | 2(3-bromophenyl) naphthalene | 748 mmol, 212 g | BrC=1C=C(C=CC1)C1=CC2=CC=CC=C2C=C1 | C16H11Br
reactant | hexane | 948 mmol, 600 ml | CCCCCC | C6H14
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | triisopropyl borate | 2.39 mol, 450 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 3 L | C1(=CC=CC=C1)C | C7H8
solvent | THF | 3 L | C1CCOC1 | C4H8O
product | 3-(2-naphthyl)phenylboronic acid | 126 g, yield of 67% | C1=C(C=CC2=CC=CC=C12)C=1C=C(C=CC1)B(O)O | C16H13BO2
